US09422281B2
A 100 mL round bottomed flask fitted with a nitrogen inlet was charged with (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone (1.54 g, 4.77 mmol), 1,2-dichloroethane (45 mL), and N,N-diisopropylethyl amine (2.497 mL, 14.30 mmol). The mixture stirred for 5 min and then furan-2-carbonyl chloride (0.940 mL, 9.53 mmol) was slowly added. The reaction stirred at room temperature for 2 h and was then concentrated. The residue was purified via column chromatography (eluting with 3:2 hexanes/ethyl acetate) to afford (S)-1-(6-bromo-4-(furan-2-carbonyl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone (1.07 g, 54%) as an off-white solid. MS (ESI, pos. ion) m/z 417, 419 [M+1]+.

reactant | (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone | 4.77 mmol, 1.54 g | BrC=1C=C2NC[C@@H](N(C2=CC1)C(C(F)(F)F)=O)C | C11H10BrF3N2O
reactant | N,N-diisopropylethyl amine | 14.30 mmol, 2.497 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | furan-2-carbonyl chloride | 9.53 mmol, 0.940 mL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | 1,2-dichloroethane | 45 mL | ClCCCl | C2H4Cl2
product | (S)-1-(6-bromo-4-(furan-2-carbonyl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone | 1.07 g, 54% | BrC=1C=C2N(C[C@@H](N(C2=CC1)C(C(F)(F)F)=O)C)C(=O)C=1OC=CC1 | C16H12BrF3N2O3
